US08912186B2
A mixture of 2-(3-(6-methoxynaphthalen-2-yl)-3-oxo-1-phenylpropyl)malonic acid (0.15 g) in acetic acid (5 ml) was treated with 48% aqueous HBr (2 ml) and heated to 150° C. for 2 h. The solvent and acid were removed by distillation and the residue was partitioned between 10% HCl and ethyl acetate. The organic layer was separated, washed with brine, dried over MgSO4, and evaporated to afford a crude, which was purified by flash chromatography on silica gel to give 5-(6-hydroxy-2-naphthalenyl)-5-oxo-3-phenylpentanoic acid (0.1 g) as pale yellow solid.

reactant | 2-(3-(6-methoxynaphthalen-2-yl)-3-oxo-1-phenylpropyl)malonic acid | 0.15 g | COC=1C=C2C=CC(=CC2=CC1)C(CC(C1=CC=CC=C1)C(C(=O)O)C(=O)O)=O | C23H20O6
reactant | HBr | 2 ml | Br | BrH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-(6-hydroxy-2-naphthalenyl)-5-oxo-3-phenylpentanoic acid | 0.1 g | OC=1C=C2C=CC(=CC2=CC1)C(CC(CC(=O)O)C1=CC=CC=C1)=O | C21H18O4
